US05891889
Step B: trans-4-(3-Methylphenyl)-3-benzyloxypiperidine hydrochloride.
To a solution of trans-N-t butoxycarbonyl-4-(3-methylphenyl)-3-benzyloxy piperidine, (0.137 g, 3.60 mmol) in EtOAc (50 ml) at 0° C. was bubbled HCl gas until saturated. The reaction was strirred at 0° C. for 10 min and then the solvent evaporated in vacuo to afford the product as a white foam.

reactant | trans-N-t butoxycarbonyl-4-(3-methylphenyl)-3-benzyloxy piperidine | 3.60 mmol, 0.137 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)C1=CC(=CC=C1)C)OCC1=CC=CC=C1 | C24H31NO3
reactant | HCl | Cl | ClH
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | trans-4-(3-Methylphenyl)-3-benzyloxypiperidine hydrochloride | Cl.CC=1C=C(C=CC1)[C@H]1[C@@H](CNCC1)OCC1=CC=CC=C1 | InChI=1S/C19H23NO.ClH/c1-15-6-5-9-17(12-15)18-10-11-20-13-19(18)21-14-16-7-3-2-4-8-16;/h2-9,12,18-20H,10-11,13-14H2,1H3;1H/t18-,19+;/m0./s1
